US07226923B2
2-Isopropyl-7-methanesulfonyl-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one
Oxone (0.88 g, 1.4 mmol) was added in one portion to a stirred solution of 2-isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-methylsulfanyl-2H-phthalazin-1-one (0.12 g, 0.36 mmol) in a 4:1 mixture of dioxane/water (1.2 ml) and the reaction mixture was stirred at room temperature for one hour. The reaction mixture was diluted with water (5 ml) and the solution was extracted with ethyl acetate (3×75 ml), the organic layers were combined, dried (MgSO4), filtered and concentrated under vacuum to give a dark brown solid. Flash column chromatography (elution: 96% DCM, 4% methanol) gave the title compound (0.032 g, 25% yield) as a light yellow solid (Example H-2).

reactant | Oxone | 1.4 mmol, 0.88 g | OOS(=O)[O-].[K+]
reactant | 2-isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-methylsulfanyl-2H-phthalazin-1-one | 0.36 mmol, 0.12 g | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)SC)=O | C16H19N5OS
reactant | dioxane water | 1.2 ml | O1CCOCC1.O
solvent | water | 5 ml | O | H2O
product | 2-Isopropyl-7-methanesulfonyl-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one | 0.032 g, 25% yield | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)S(=O)(=O)C)=O | C16H19N5O3S
